US08530475B2
1-(1H-Indol-4-yloxy)-3-(9-naphthalen-2-ylmethyl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-2-ol
Z-(1S,6S)-7-naphthalen-2-ylmethyl-7,9-diaza-bicyclo[4.2.2]dec-3-ene (30 mg, 0.064 mmol), ethyl acetate (0.5 mL) and 4-oxiranylmethoxy-1H-indole (50 mg, 0.26 mmol) were placed in a μW tube with ethanol (3 ml) and heated to 95° C. for 900 sec. The solvent was evaporated to yield a crude oil, which was purified via flash chromatography (15% Ethyl acetate/heptane to 100% Ethyl acetate) to yield the title compound as a residue.

reactant | Z-(1S,6S)-7-naphthalen-2-ylmethyl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.064 mmol, 30 mg | C1=C(C=CC2=CC=CC=C12)CN1[C@H]2C\C=C/C[C@@H](C1)NC2 | C19H22N2
reactant | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
reactant | 4-oxiranylmethoxy-1H-indole | 0.26 mmol, 50 mg | O1C(C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-(1H-Indol-4-yloxy)-3-(9-naphthalen-2-ylmethyl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-2-ol | N1C=CC2=C(C=CC=C12)OCC(CN1C2CC=CCC(C1)N(C2)CC2=CC1=CC=CC=C1C=C2)O | C30H33N3O2
